US06025375
To a solution of a mixture of 1-(4,5-diphenyloxazol-2-yl)-2-(3-methoxybenzyl)cyclopentene and 1-(4,5-diphenyloxazol-2-yl)-5-(3-methoxybenzyl)cyclopentene (2 g) in methylene chloride (30 ml) was added boron tribromide in methylene chloride (1M, 9.8 ml) at 0C. After being stirred for 2 hours at 0° C., the solvent was evaporated in vacuo to give a residue containing a mixture of 1-(4,5-diphenyloxazol-2-yl)-2-(3-hydroxybenzyl)cyclopentene and 1-(4,5-diphenyloxazol-2-yl)-5-(3-hydroxybenzyl)-cyclopentene. The residue was diluted with ethyl acetate and the solution was washed with water and brine. The dried solvent was evaporated in vacuo. The oily residue was dissolved in N,N-dimethylformamide (20 ml). To the solution were added potassium carbonate (2.0 g) and ethyl bromoacetate (2.2 ml), and the resulting mixture was stirred for 3 hours at room temperature. The reaction solution was partitioned between ethyl acetate and water and the organic layer was washed with water and brine, dried over magnesium sulfate, and evaporated in vacuo. The oily residue was chromatographed on silica gel using n-hexane--ethyl acetate as an eluent. The first fraction gave ethyl [3-[[2-(4,5-diphenyloxazol-2-yl)-1-cyclopenten-1-yl]methyl]phenoxy]acetate (0.38 g).

reactant | 1-(4,5-diphenyloxazol-2-yl)-2-(3-methoxybenzyl)cyclopentene | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C1=C(CCC1)CC1=CC(=CC=C1)OC | C28H25NO2
reactant | 1-(4,5-diphenyloxazol-2-yl)-5-(3-methoxybenzyl)cyclopentene | 2 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C1=CCCC1CC1=CC(=CC=C1)OC | C28H25NO2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | 1-(4,5-diphenyloxazol-2-yl)-2-(3-hydroxybenzyl)cyclopentene | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C1=C(CCC1)CC1=CC(=CC=C1)O | C27H23NO2
reactant | 1-(4,5-diphenyloxazol-2-yl)-5-(3-hydroxybenzyl)-cyclopentene | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C1=CCCC1CC1=CC(=CC=C1)O | C27H23NO2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1M, 9.8 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl [3-[[2-(4,5-diphenyloxazol-2-yl)-1-cyclopenten-1-yl]methyl]phenoxy]acetate | 0.38 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C1=C(CCC1)CC=1C=C(OCC(=O)OCC)C=CC1 | C31H29NO4
